US05670505
A mixture of (2R)-4-(trans-cinnamoyl)-1-[3-formylamino-5-(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine (280 mg) and aqueous 10% hydrochloric acid (1 ml) in methanol (10 ml) was stirred at room temperature for 6 hours. The mixture was evaporated under reduced pressure. The resulting powder was collected by filtration and dried to give (2R)-1-[3-amino-5-(trifluoromethyl)benzoyl]-4-(trans-cinnamoyl)-2-(1H-indol-3-yl-methyl)piperazine hydrochloride (280 mg).

reactant | (2R)-4-(trans-cinnamoyl)-1-[3-formylamino-5-(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine | 280 mg | C(\C=C\C1=CC=CC=C1)(=O)N1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)NC=O)=O)CC1=CNC2=CC=CC=C12 | C31H27F3N4O3
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | (2R)-1-[3-amino-5-(trifluoromethyl)benzoyl]-4-(trans-cinnamoyl)-2-(1H-indol-3-yl-methyl)piperazine hydrochloride | 280 mg | Cl.NC=1C=C(C(=O)N2[C@@H](CN(CC2)C(\C=C\C2=CC=CC=C2)=O)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F | InChI=1S/C30H27F3N4O2.ClH/c31-30(32,33)23-14-21(15-24(34)17-23)29(39)37-13-12-36(28(38)11-10-20-6-2-1-3-7-20)19-25(37)16-22-18-35-27-9-5-4-8-26(22)27;/h1-11,14-15,17-18,25,35H,12-13,16,19,34H2;1H/b11-10+;/t25-;/m1./s1
